US04017492
In the manner given in Example 13, 7-nitro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be stirred with 2-oxo-5-piperidinopentanoic acid at room temperature to give 7-nitro-2-[(1-carboxy-4-piperidinobutylidene)-hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-nitro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13N5O2
reactant | 2-oxo-5-piperidinopentanoic acid | O=C(C(=O)O)CCCN1CCCCC1 | C10H17NO3
product | 7-nitro-2-[(1-carboxy-4-piperidinobutylidene)-hydrazino]-5-phenyl-3H-1,4-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NN=C(CCCN2CCCCC2)C(=O)O)C2=CC=CC=C2)C1 | C25H28N6O4
